US05482699
N,N,N"',N"'-tetra(t-butyloxycarbonylmethyl)-N',N"-di(2-aminoethyl)-triethylenetetramine is dissolved in acetonitrile with an excess of potassium carbonate, and a solution of bromoethanol (3 equivalents) in acetonitrile is added dropwise with stirring; the solution is then heated to reflux for 18 hours. The reaction mixture is then filtered and the filtrate evaporated to dryness to give N,N,N"',N"'-tetra(t-butyloxycarbonylmethyl)-N',N"-di(N,N-bis(2-hydroxyethyl)-2-aminoethyl)-triethylenetetramine.

reactant | N,N,N"',N"'-tetra(t-butyloxycarbonylmethyl)-N',N"-di(2-aminoethyl)-triethylenetetramine | C(C)(C)(C)OC(=O)CN(CCN(CCN(CCN(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)CCN)CCN)CC(=O)OC(C)(C)C | C34H68N6O8
reactant | bromoethanol | 3 equivalents | BrC(C)O | C2H5BrO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | N,N,N"',N"'-tetra(t-butyloxycarbonylmethyl)-N',N"-di(N,N-bis(2-hydroxyethyl)-2-aminoethyl)-triethylenetetramine | C(C)(C)(C)OC(=O)CN(CCN(CCN(CCN(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)CCN(CCO)CCO)CCN(CCO)CCO)CC(=O)OC(C)(C)C | C42H84N6O12
